US04957928
At room temperature and while stirring, a solution of 11.94 g (30 mmol) of N-(3-ethoxycarbonylpropyl)-N-(2-bromoethyl)-N-[2-(chroman-3-yl)ethyl]amine in 40 ml of absolute dimethylformamide is added dropwise within a period of 20 minutes to a suspension of 2.72 g (40 mmol) of sodium ethoxide in 30 ml of dimethylformamide. The reaction mixture is stirred for 16 hours at room temperature and then concentrated to dryness by evaporation under a high vacuum. Diethyl ether is added to the residue and extraction is carried out with cold 2N hydrochloric acid. The combined hydrochloric acid extracts are extracted by shaking with dichloromethane and the dichloromethane phases are dried over sodium sulphate and concentrated by evaporation in vacuo. The crude product is obtained as the residue and is chromatographed on 500 g of silica gel (0.040-0.063 mm) using ethyl acetate as the eluant. The eluate is concentrated by evaporation to yield 1-[2-(chroman-3-yl)ethyl]-piperidine-4-carboxylic acid ethyl ester in the form of a colourless oil. The 1-[2-(chroman-3-yl)ethyl]-piperidine-4-carboxylic acid ethyl ester hydrochloride produced therefrom using hydrochloric acid in diethyl ether crystallises from ethanol/diethyl ether and melts at 182°-186°.

reactant | N-(3-ethoxycarbonylpropyl)-N-(2-bromoethyl)-N-[2-(chroman-3-yl)ethyl]amine | 30 mmol, 11.94 g | C(C)OC(=O)CCCN(CCC1COC2=CC=CC=C2C1)CCBr | C19H28BrNO3
reactant | sodium ethoxide | 40 mmol, 2.72 g | [O-]CC.[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[2-(chroman-3-yl)ethyl]-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)CCC1COC2=CC=CC=C2C1 | C19H27NO3
